US09303033B2
To 2-chloro-4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)phenol (582 mg, 1.84 mmol) in DMF (4.5 mL) cooled to 0° C. was added phosphorous oxychloride (0.514 mL, 5.52 mmol) dropwise. The reaction mixture was stirred while warming to 45° C. over 3 h. This was cooled down to 0° C. and added slowly to an ice-cold solution of 2M NaOH while stirring. Upon completion, the mixture was stirred at room temperature for 1 h. The resulting solid was filtered off and washed with water to provide 412 mg (65%) of 5-(3-chloro-4-hydroxyphenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde. LCMS (ES): >95% pure, m/z 344 [M+1]+.

reactant | 2-chloro-4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)phenol | 1.84 mmol, 582 mg | ClC1=C(C=CC(=C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2)O | C15H14ClN5O
reactant | phosphorous oxychloride | 5.52 mmol, 0.514 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 2M | [OH-].[Na+]
reactant | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | 5-(3-chloro-4-hydroxyphenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 412 mg, 65% | ClC=1C=C(C=CC1O)NC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C16H14ClN5O2
